2122-06-29 07:14:00 Physician Resident Progress Note
Chief Complaint:  lower GI Bleed
   24 Hour Events:
   72yo man w progressive HCC with mx liver lesions and [**Hospital 90**] transferred to
   the ICU after episode of BRBPR.
   --Consults from Liver, [**Doctor First Name **] and Renal.  Deferred further investigation
   of LGIB.  Thought to be secondary to hemorrhoids.
   -- PARACENTESIS - At [**2122-6-28**] 06:56 PM - done for diagnostic purposes
   to dx abdominal mets vs. portal HTN vs. SBP. Shows SAAG 1.1 and Polys
   440, cx and cytology pending.
   -- Yesterday late afternoon/evening - notified of low UOP.  Thought was
   foley cath obstructed & not draining.  The cath was flushed with no
   result.  Bladder scan showed 480 cc urine in bladder.  Foley was pulled
   Cadey cath ordered.  Could not be placed by nursing.  Urology consult
   -- cystocopy showed pt was aneuric with contracted bladder.
   -- Approx 1 hour after cystocopy, the patient developed severe dyspnea
   and required 2L of O2.  The patient was given an aerosolized saline tx
   to help with secretions.  It became apparent that SOB was worsening
   thought to be mechanical due to worsening ascites and .  Patient became
   diaphoretic, cold and clammy.
   --ABG was done PH 7.2  O2 78  CO2 40  HCO3 16  XS -11
   --Decision made to intubate for hypoxic respiratory failure.
   --Patient placed on fentanyl and versed and was bolused approx 2 liters
   of fluid.  He became hypotensive to SBPs in 70s after intubation.
   -- He has required dopamine currently at 10 to maintain MAP >60
   -- Patient
s urine output increased to 20-30cc/hr with IVF boluses.
   --Recently his Vent Peak pressures have been increasing PIP 40, plat
   35.  Decreased TV, Increased RR and Increased PEEP.
   --Attempted A-line -- could not do.  2 peripheral IVs
   --daughter came by around the time the patient was intubated.  request
   family mtg with onc today.
   --Bladder scan at 36.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-6-28**] 02:56 PM
   Ceftriaxone - [**2122-6-28**] 05:01 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Dopamine - 5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2122-6-28**] 08:30 PM
   Morphine Sulfate - [**2122-6-28**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-6-29**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96
   Tcurrent: 35.6
C (96
   HR: 109 (96 - 120) bpm
   BP: 124/44(65) {92/32(57) - 144/99(107)} mmHg
   RR: 18 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,060 mL
                                                                  2,099 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                    260 mL
                                                                  2,099 mL
   Blood products:
                                                                    600 mL
   Total out:
                                                                     60 mL
                                                                     25 mL
   Urine:
                                                                     60 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,000 mL
                                                                  2,074 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 500) mL
   RR (Set): 26
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 37 cmH2O
   Plateau: 31 cmH2O
   SpO2: 98%
   ABG: 7.23/36/55/15/-11
   Ve: 8.6 L/min
   PaO2 / FiO2: 138
   Physical Examination
   Gen: Intubated and sedated
   Lungs: CTA anteriorly
   CV: regular rhythm, rapid rate, s1 & s2 nl, no M/R/G
   Abd: Tense, Distended, with fluid wave.  No erythema or leaking at site
   of paracentesis
   Ext: hands and feet cool to touch bilat, decreased capillary refill to
   4 sec.  toes mottled appearing.
   Labs / Radiology
   230 K/uL
   9.8 g/dL
   118 mg/dL
   3.8 mg/dL
   15 mEq/L
   5.3 mEq/L
   68 mg/dL
   93 mEq/L
   127 mEq/L
   30.5 %
   16.7 K/uL
        [image002.jpg]
                             [**2122-6-28**]  08:55 AM
                             [**2122-6-28**]  03:30 PM
                             [**2122-6-28**]  11:13 PM
                             [**2122-6-29**]  01:55 AM
                             [**2122-6-29**]  04:50 AM
                             [**2122-6-29**]  04:59 AM
   WBC
   17.7
   16.7
   Hct
   31.9
   28.6
   28.5
   30.5
   Plt
   237
   230
   Cr
   3.8
   3.8
   TropT
   <0.01
   TCO2
   16
   16
   Glucose
   111
   118
   Other labs: PT / PTT / INR:16.3/42.2/1.5,
   CK / CKMB / Troponin-T:170/11/<0.01,
   Albumin:2.9 g/dL, LDH:354 IU/L,
   Ca++:9.3 mg/dL, Mg++:3.2 mg/dL, PO4:10.6 mg/dL
   Fluid analysis / Other labs: peritoneal fluid.
                                   Ascites
                                  Chemistry
                                    Protein
                                    Glucose
                                      LDH
                                     368
   Albumin: 1.8
     Ascites
                                      WBC
                                    1000
                                      RBC
                                    [**Numeric Identifier 106**]
                                     Poly
                                     44
                                     Lymph
                                      7
                                     Mono
                                     49
                                      EOs
   Imaging:
    CXR -- OG in place.  ET  near carina -- pulled back
   Bilat increased interstial markings at the lung bases bilat.
   Repeat CXR to check tube - pending
   Microbiology: blood cx  pending
   Urine cx
 NGTD
   Sputum cx
 grow nl resp flora
   Peritoneal cx
pending.
   Assessment and Plan
   72yo man w progressive HCC with mx liver lesions and [**Hospital 90**] transferred to
   the ICU after episode of BRBPR.
   .
   # respiratory failure - intubated on vent for hypoxemic respiratory
   failure.  Thought to be due increasing fluid in interstium in lungs for
   unclear reason.  Patient
s ascites may be contributing and possible
   fluid relocation to pleural space.
   - intubated, sedated on A/C -- continue current vent settings.
   Consider titrating up FiO2 (current PaO2 at 55)
   - obtain sputum cx
   -repeat attempt at A-line
   # ARF: acutely worsening in last 24h.  Multifactorial etiology
   including contrast nephropathy, pre-renal element, increasing abdominal
   pressure contributing to aneuria, and possibly  helpatorenal syndrome.
   minimal UOP all day yesterday.
   - Consider dialysing if patient has an acute indication
 ie drug
   toxicity.
   - avoid nephrotoxins and renally dose drugs.
   - placed foley
   - monitor i/o and lytes
   - will continue albumin, midodrine and octreotide to see if underlying
   hepatorenal.
   - apprec liver and renal recs
   - plan to do a therapeutic paracentesis to remove approx 1 L to assist
   patient in comfort.  Will give additional albumin to help maintain the
   intravascular volume prior to the removal of peritoneal fluid.  Concern
   re: worsening hepatorenal syndrome with removal of fluid so only taking
   a small amount for comfort of patient.
   - renal u/s repeat today.
   .
   # Hypotension
 responsive to both fluids and dopamine.
   - Will need central access to continue to give dopa or other pressors.
   - Give fluids but avoid compromising ability to ventilate patient.
   # SBP -- likely given paracentesis labs
   - cover with ceftriaxone.
   # BRBPR: suspect lower source given hemorrhoids on exam.  DDx includes
   lower sources: lower variceal bleed, external hemorrhoids, internal
   hemorrhoids, diverticulosis.
   - will give IV PPI [**Hospital1 **]
   - goal hct>30
   - coags c k.
   .
   # hyponatremia: had improved with fluid after giving 2 L NS.  Appears
   total body up but intravascularly volume depleted likely from liver
   disease.  UNA<10.
   - d/c free water restriction
   .
   # hyperkalemia -- getting kayexylate
 recheck labs and reorder if
   necessary.
   .
   # Pain control: patient is sedated.  morphine and oxycodone prn
   .
   # HCC: unclear if patient medically stable for chemo at this time.
   will need to meet with primary onc and family to discuss plans.
   - [**Doctor Last Name **] to come by today to talk with family at 2 pm.  Arranged to
   have interpreter come to the [**Hospital Unit Name 4**] for the meeting. (Chinese (Cantonese)
   interpreter).  Patient started on lactulose yesterday for concern re:
   hepatic encephalopathy.
   .
   # code: briefly discussed and full for now
   .
   # access: 18g, 20g, 22g -- needs likely both A-line or Central line.
   .
   # FEN: patient has an OG
 start TF per nutrition.
   .
   # Proph: PPI and boots
   . constipation: bowel regimen
   .
   # Contact:
   - son [**Name (NI) 92**] [**Telephone/Fax (1) 93**]
   - wife [**Name (NI) 94**] [**Telephone/Fax (1) 95**]
   - dtr [**Name (NI) 107**] [**Telephone/Fax (1) 96**]
   .
   # dispo: Continue to monitor and stabilize in the [**Hospital Unit Name 4**] for now.
   ICU Care
 see above
   Vent orders and nursing orders specific to ventilated patients  placed

2122-06-30 07:02:00 Physician Resident Progress Note
Chief Complaint: metastatic HCC with PVT
   24 Hour Events:
 ULTRASOUND - At [**2122-6-29**] 09:45 AM
   No evidence of hydronephrosis, Ascites, Partially visualized multiple
   hepatic masses, compatible with known
   hepatocellular carcinoma.
   Meeting with family [**2122-6-29**]:  Decision was made not to escalate care,
   DNR, DNI.
   Increased ascites, rectal prolapse overnight with BRBPR.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2122-6-28**] 02:56 PM
   Ceftriaxone - [**2122-6-29**] 02:15 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Dopamine - 12 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2122-6-29**] 07:41 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-6-30**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.7
C (96.2
   HR: 101 (99 - 115) bpm
   BP: 84/40(50) {75/21(36) - 124/64(78)} mmHg
   RR: 26 (20 - 27) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
    Bladder pressure: 36 (36 - 36) mmHg
   Total In:
                                                                  3,167 mL
                                                                    417 mL
   PO:
   TF:
   IVF:
                                                                  2,487 mL
                                                                    217 mL
   Blood products:
                                                                    650 mL
                                                                    200 mL
   Total out:
                                                                     70 mL
                                                                      0 mL
   Urine:
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,097 mL
                                                                    417 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: CMO
   PIP: 38 cmH2O
   Plateau: 32 cmH2O
   Compliance: 19 cmH2O/mL
   SpO2: 94%
   ABG: ////
   Ve: 8.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   230 K/uL
   9.8 g/dL
   118 mg/dL
   3.8 mg/dL
   13 mEq/L
   5.3 mEq/L
   68 mg/dL
   93 mEq/L
   127 mEq/L
   30.5 %
   16.7 K/uL
        [image002.jpg]
                             [**2122-6-28**]  08:55 AM
                             [**2122-6-28**]  03:30 PM
                             [**2122-6-28**]  11:13 PM
                             [**2122-6-29**]  01:55 AM
                             [**2122-6-29**]  04:50 AM
                             [**2122-6-29**]  04:59 AM
   WBC
   17.7
   16.7
   Hct
   31.9
   28.6
   28.5
   30.5
   Plt
   237
   230
   Cr
   3.8
   3.8
   TropT
   <0.01
   TCO2
   16
   16
   Glucose
   111
   118
   Other labs: PT / PTT / INR:16.3/42.2/1.5, CK / CKMB /
   Troponin-T:170/11/<0.01, ALT / AST:197/393, Alk Phos / T Bili:35/1.0,
   Albumin:2.9 g/dL, LDH:572 IU/L, Ca++:9.3 mg/dL, Mg++:3.2 mg/dL,
   PO4:10.3 mg/dL
   Imaging: [**2122-6-29**] Renal U/S: No evidence of hydronephrosis; Ascites;
   Partially visualized multiple hepatic masses, compatible with known
   hepatocellular carcinoma.
   Assessment and Plan
   72yo man w progressive HCC with mx liver lesions and [**Hospital 90**] transferred to
   the ICU after episode of BRBPR.
   .
   # respiratory failure - intubated on vent for hypoxemic respiratory
   failure.  Thought to be due increasing fluid in interstium in lungs for
   unclear reason.  Patient
s ascites may be contributing and possible
   fluid relocation to pleural space.
   - intubated, sedated on A/C -- continue current vent settings.
   Consider titrating up FiO2 (current PaO2 at 55)
   - obtain sputum cx
   -repeat attempt at A-line
   # ARF: acutely worsening in last 24h.  Multifactorial etiology
   including contrast nephropathy, pre-renal element, increasing abdominal
   pressure contributing to aneuria, and possibly  helpatorenal syndrome.
   minimal UOP all day yesterday.
   - Consider dialysing if patient has an acute indication
 ie drug
   toxicity.
   - avoid nephrotoxins and renally dose drugs.
   - placed foley
   - monitor i/o and lytes
   - will continue albumin, midodrine and octreotide to see if underlying
   hepatorenal.
   - apprec liver and renal recs
   - plan to do a therapeutic paracentesis to remove approx 1 L to assist
   patient in comfort.  Will give additional albumin to help maintain the
   intravascular volume prior to the removal of peritoneal fluid.  Concern
   re: worsening hepatorenal syndrome with removal of fluid so only taking
   a small amount for comfort of patient.
   - renal u/s repeat today.
   .
   # Hypotension
 responsive to both fluids and dopamine.
   - Will need central access to continue to give dopa or other pressors.
   - Give fluids but avoid compromising ability to ventilate patient.
   # SBP -- likely given paracentesis labs
   - cover with ceftriaxone.
   # BRBPR: suspect lower source given hemorrhoids on exam.  DDx includes
   lower sources: lower variceal bleed, external hemorrhoids, internal
   hemorrhoids, diverticulosis.
   - will give IV PPI [**Hospital1 **]
   - goal hct>30
   - coags c k.
   .
   # hyponatremia: had improved with fluid after giving 2 L NS.  Appears
   total body up but intravascularly volume depleted likely from liver
   disease.  UNA<10.
   - d/c free water restriction
   .
   # hyperkalemia -- getting kayexylate
 recheck labs and reorder if
   necessary.
   .
   # Pain control: patient is sedated.  morphine and oxycodone prn
   .
   # HCC: unclear if patient medically stable for chemo at this time.
   will need to meet with primary onc and family to discuss plans.
   - [**Doctor Last Name **] to come by today to talk with family at 2 pm.  Arranged to
   have interpreter come to the [**Hospital Unit Name 4**] for the meeting. (Chinese (Cantonese)
   interpreter).  Patient started on lactulose yesterday for concern re:
   hepatic encephalopathy.
   .
   # code: briefly discussed and full for now
   .
   # access: 18g, 20g, 22g -- needs likely both A-line or Central line.
   .
   # FEN: patient has an OG
 start TF per nutrition.
   .
   # Proph: PPI and boots
   . constipation: bowel regimen
   .
   # Contact:
   - son [**Name (NI) 92**] [**Telephone/Fax (1) 93**]
   - wife [**Name (NI) 94**] [**Telephone/Fax (1) 95**]
   - dtr [**Name (NI) 107**] [**Telephone/Fax (1) 96**]
   .
   # dispo: Continue to monitor and stabilize in the [**Hospital Unit Name 4**] for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2122-6-28**] 08:01 AM
   18 Gauge - [**2122-6-28**] 11:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: